US07498333B2
Triethyl orthoacetate (1.6 L, 9 mol), malononitrile (500 g, 7.57 mol) and glacial acetic acid (25 ml) were placed in a 5 l RB flask equipped with a stirrer, thermometer and a Vigreux column (20×1 in.) on top of which a distillation condenser was placed. The reaction mixture was heated and ethyl alcohol began to distil when the temperature of the reaction mixture was about 85-90° C. After about 3 h., the temperature of the reaction mixture reached 140° C. Then the reaction was concentrated in a rotary evaporator to remove the low-boiling materials and the residue was stirred with isopropyl alcohol (1 l) and cooled in an ice bath. The crystallized product was filtered off washed with isopropyl alcohol (200 ml), hexanes (600 ml) and dried at 50° C. in a vacuum oven overnight to yield 2-(1-ethoxy-ethylidene)-malononitrile (974 g, 94%) as a golden yellow solid [mp 92.° C. (lit.90-92° C., MCCall. M. A. J. Org. Chem. 1962, 27, 2433-2439.)].

reactant | Triethyl orthoacetate | 9 mol, 1.6 L | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | malononitrile | 7.57 mol, 500 g | C(CC#N)#N | C3H2N2
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | ethyl alcohol | C(C)O | C2H6O
product | 2-(1-ethoxy-ethylidene)-malononitrile | 974 g, 94% | C(C)OC(C)=C(C#N)C#N | C7H8N2O
